US04609650
16β-Ethyl-17β-(3-cyclohexylpropionyl)oxyacetoxy-4-estren-3-one
In 20 ml of acetone is dissolved 1.0 ml of cyclohexanepropionic acid, and 3.0 ml of 2N-NaOH is added, followed by addition of 1.2 g of 16β-ethyl-17β-bromoacetoxy-4-estren-3-one and 20 ml of DMF. The mixture is refluxed for 8 hours, and thereafter treated in the same manner as Example 26. The reaction mixture is chromatographed on a silica gel column. Following passage of 200 ml of n-hexane-diisopropyl ether (3:7), elution is carried out with 800 ml of a 1:1 mixture of the same solvents. The eluate is evaporated under reduced pressure to remove the solvent, giving 1.21 g of the above-identified compound as a light-yellow viscous oil.

reactant | 16β-ethyl-17β-bromoacetoxy-4-estren-3-one | 1.2 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(CBr)=O | C22H31BrO3
reactant | DMF | 20 ml | CN(C)C=O | C3H7NO
reactant | cyclohexanepropionic acid | 1.0 ml | C1(CCCCC1)CCC(=O)O | C9H16O2
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | NaOH | [OH-].[Na+]
product | 16β-Ethyl-17β-(3-cyclohexylpropionyl)oxyacetoxy-4-estren-3-one | 1.21 g | C(C)[C@@H]1[C@@H]([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(CC[C@@H]3[C@H]1CC2)=O)OC(COC(CCC2CCCCC2)=O)=O | C31H46O5
